US03997572
3-Nitrophthalimide is converted to the potassium salt by the procedure described in Example 13 and then reacted with 1-(2-chloroethyl)-2-methyl-5-nitroimidazole according to the procedure described in Example 1. The crude reaction mixture is digested with toluene and then filtered to remove some insoluble material. Evaporation of the solvent leaves a syrup which is diluted with chloroform and then filtered to remove some insoluble material. The filtrate is further diluted with toluene and again filtered to remove some precipitate. The solvent is then evaporated from the filtrate and the resulting residue is recrystallized first from ethanol and then from acetone to give N-[2-(2-methyl-5-nitro-1-imidazolyl)ethyl]-3-nitrophthalimide melting at about 175°-176° C.

reactant | 3-Nitrophthalimide | [N+](=O)([O-])C1=C2C(C(=O)NC2=O)=CC=C1 | C8H4N2O4
reactant | potassium | [K] | K
reactant | 1-(2-chloroethyl)-2-methyl-5-nitroimidazole | ClCCN1C(=NC=C1[N+](=O)[O-])C | C6H8ClN3O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[2-(2-methyl-5-nitro-1-imidazolyl)ethyl]-3-nitrophthalimide | CC=1N(C(=CN1)[N+](=O)[O-])CCN1C(C=2C(C1=O)=C(C=CC2)[N+](=O)[O-])=O | C14H11N5O6
